US07601711B2
[5-(Hexahydro-pyrrolo[1,2-a]pyrazine-2-carbonyl)-1-(2,2,2-trifluoro-ethyl)-1H-indol-2-yl]-morpholin-4-yl-methanone
The title compound was synthesized in analogy to example 46, intermediate e), from 2-(morpholine-4-carbonyl)-1-(2,2,2-trifluoro-ethyl)-1H-indole-5-carboxylic acid and 1,4-diazabicyclo[4.3.0]nonane (purchased at Matrix Ref 8078), to give the desired product as a white solid (65%).

reactant | 2-(morpholine-4-carbonyl)-1-(2,2,2-trifluoro-ethyl)-1H-indole-5-carboxylic acid | N1(CCOCC1)C(=O)C=1N(C2=CC=C(C=C2C1)C(=O)O)CC(F)(F)F | C16H15F3N2O4
reactant | 1,4-diazabicyclo[4.3.0]nonane | N12CCNCC2CCC1 | C7H14N2
product | [5-(Hexahydro-pyrrolo[1,2-a]pyrazine-2-carbonyl)-1-(2,2,2-trifluoro-ethyl)-1H-indol-2-yl]-morpholin-4-yl-methanone | 65% | C1C2N(CCN1C(=O)C=1C=C3C=C(N(C3=CC1)CC(F)(F)F)C(=O)N1CCOCC1)CCC2 | C23H27F3N4O3
